US05677316
(2) 1-Benzyl-3-dibenzylaminomethyl-3-hydroxymethylpyrrolidine
1-Benzyl-3-(N,N-dibenzylcarbamoyl)-5-oxopyrrolidine-3-carboxylic acid (124 g) was dissolved in tetrahydrofuran (1.1 l) and sodium borohydride (79.7 g) was added over 15 minutes under ice-cooling. A solution of sulfuric acid (56 ml) in tetrahydrofuran (560 ml) was added over 1 hour under ice-cooling, and the mixture was refluxed for 3 hours. 3N Hydrochloric acid (500 ml) was added under ice-cooling and the mixture was refluxed for 2.5 hours. After concentration, water (1 l) was added and the resulting mixture was made alkaline with an aqueous solution of sodium hydroxide. The resulting mixture was extracted with ethyl acetate and washed with saturated brine. After drying, the organic layer was concentrated and purified by silica gel column chromatography to give 90 g of the object compound as white crystals, melting point 65°-67° C.

reactant | 1-Benzyl-3-(N,N-dibenzylcarbamoyl)-5-oxopyrrolidine-3-carboxylic acid | 124 g | C(C1=CC=CC=C1)N1CC(CC1=O)(C(=O)O)C(N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C27H26N2O4
reactant | sodium borohydride | 79.7 g | [BH4-].[Na+]
reactant | sulfuric acid | 56 ml | S(O)(O)(=O)=O | H2O4S
reactant | Hydrochloric acid | 3N, 500 ml | Cl | ClH
solvent | tetrahydrofuran | 1.1 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 560 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-3-dibenzylaminomethyl-3-hydroxymethylpyrrolidine | 90 g | C(C1=CC=CC=C1)N1CC(CC1)(CO)CN(CC1=CC=CC=C1)CC1=CC=CC=C1 | C27H32N2O
